US09238639B2
Ethyl(6-((2,4-dichlorobenzyl)oxy)-1,1-dioxido-1-benzothiophen-3-yl)acetate
To a mixture of ethyl(6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetate (10.0 g) in anhydrous DCM (400 mL) was added mCPBA (85%, 15.7 g), and the resulting solution was stirred at 25° C. for 3 d. To the reaction mixture was added Na2SO3 (30.0 g), and the mixture was stirred at 25° C. for 0.5 h. The reaction mixture was washed successively with saturated aqueous NaHCO3 and brine, dried over Na2SO4 and concentrated in vacuo. The residue was washed with EtOAc to give the title compound (8.50 g).

reactant | ethyl(6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetate | 10.0 g | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)=O | C19H16Cl2O3S
reactant | mCPBA | 15.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2SO3 | 30.0 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(6-((2,4-dichlorobenzyl)oxy)-1,1-dioxido-1-benzothiophen-3-yl)acetate | 8.50 g | C(C)OC(CC1=CS(C2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)(=O)=O)=O | C19H16Cl2O5S
